US07994185B2
Step B: N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-4-morpholinesulfonamide
Following a procedure analogous to the procedure described in Example 21 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-4-morpholinesulfonamide (96 mg, 0.177 mmol) in NH4OH (4 mL), heated in a microwave reactor for 40 min at 120° C. the title compound was obtained as a yellow solid (20 mg, 22% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.86 (s, 1H), 7.87 (d, J=5.3 Hz, 1H), 7.54 (td, J=6.8, 3.5 Hz, 1H), 7.19-7.31 (m, 2H), 6.54 (s, 2H), 5.80 (d, J=5.3 Hz, 1H), 3.68 (t, J=4.4 Hz, 4H), 3.48-3.55 (m, 4H), 3.43 (t, J=4.4 Hz, 4H), 2.96-3.03 (m, 4H). MS (ESI): 521.8 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-4-morpholinesulfonamide | 0.177 mmol, 96 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)N1CCOCC1)F | C21H22ClFN6O4S2
reactant | NH4OH | 4 mL | [NH4+].[OH-]
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-4-morpholinesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)N1CCOCC1)F | C21H24FN7O4S2
